US08877815B2
To a solution of 2-(1-(3-tert-butoxy-2-(3,4-dichlorobenzyl)-3-oxopropylcarbamoyl)cyclopentyl)acetic acid (30.6 mg, 0.067 mmol) in DCM (0.7 ml), TFA (0.257 ml, 3.34 mmol) was added. The reaction mixture was allowed to stir for 2 hr and then concentrated under reduced pressure. The obtained residue was purified by RP-HPLC (SunFire, H2O (0.1% TFA) I CH3CN), and then lyophilized to give 3-(1-(carboxymethyl)cyclopentanecarboxamido)-2-(3,4-dichlorobenzyl)propanoic acid (10.5 mg); Retention time=0.67 minutes (condition B); MS (m+1)=402.0; 1H NMR (400 MHz, DMSO-d6, mixture of rotamers) δ ppm 1.47-1.58 (m, 6H) 1.97-2.04 (m, 2H) 2.54-2.63 (m, 2H) 2.68-2.84 (m, 3H) 3.13-3.28 (m, 2H) 7.17-7.19 (m, 1H) 7.43 (d, J=2.0 Hz, 1H) 7.52-7.54 (m, 1H) 7.61-7.63 (app t, 1H) 12.14 (br s, 2H); HRMS (ES+) m/z for C18H22Cl2NO5 [M+H]+ calcd 402.0875. found 402.0855.

reactant | 2-(1-(3-tert-butoxy-2-(3,4-dichlorobenzyl)-3-oxopropylcarbamoyl)cyclopentyl)acetic acid | 0.067 mmol, 30.6 mg | C(C)(C)(C)OC(C(CNC(=O)C1(CCCC1)CC(=O)O)CC1=CC(=C(C=C1)Cl)Cl)=O | C22H29Cl2NO5
reactant | TFA | 3.34 mmol, 0.257 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 0.7 ml | C(Cl)Cl | CH2Cl2
product | 3-(1-(carboxymethyl)cyclopentanecarboxamido)-2-(3,4-dichlorobenzyl)propanoic acid | 10.5 mg | C(=O)(O)CC1(CCCC1)C(=O)NCC(C(=O)O)CC1=CC(=C(C=C1)Cl)Cl | C18H21Cl2NO5
